US07109216B2
Part C: 2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carbonyl chloride (1.5 gram, 3.75 mmol), 1-aminopiperidine (0.725 gram, 7.25 mmol) and triethylamine (0.549 gram, 5.44 mmol) are dissolved in dichloromethane and stirred for one hour at room temperature. The mixture is washed with a saturated aqueous NaHCO3 solution, dried over Na2SO4 and concentrated in vacuo and further purified by column chromatography (heptane/ethyl acetate=1/1 (v/v), silicagel) to give 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide (0.220 gram, 13% yield) as a white foam. MS: 463.

reactant | 2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carbonyl chloride | 3.75 mmol, 1.5 gram | ClC1=CC=C(C=C1)C=1N(C(=C(N1)C(=O)Cl)C)C1=C(C=C(C=C1)Cl)Cl | C17H10Cl4N2O
reactant | 1-aminopiperidine | 7.25 mmol, 0.725 gram | NN1CCCCC1 | C5H12N2
reactant | triethylamine | 5.44 mmol, 0.549 gram | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide | 0.220 gram, 13% yield | ClC1=CC=C(C=C1)C=1N(C(=C(N1)C(=O)NN1CCCCC1)C)C1=C(C=C(C=C1)Cl)Cl | C22H21Cl3N4O
